data/mechanism_extracts/JACS/10.1021_jacs.8b08592.json
{"doi": "10.1021_jacs.8b08592", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-carbohydroxylation of arylalkenes via anodic oxidation, adding an alkynyl/alkenyl group (from organotrifluoroborate) and OH (from H2O) across the C=C bond", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "radical_cation", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of arylalkene to a radical cation, which is trapped by the organotrifluoroborate; the resulting C-radical is further anodically oxidized to a benzylic cation that is trapped by H2O. At the cathode, H2O is reduced to H2 and HO-.", "key_intermediates": [{"name": "arylalkene radical cation (B)", "smiles": null, "role": "reactive"}, {"name": "organotrifluoroborate reagent (C, R-BF3K)", "smiles": null, "role": "reactive"}, {"name": "benzylic C-centered radical (D) after concerted C-C bond formation/BF3 loss", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation (E) from anodic oxidation of D", "smiles": null, "role": "reactive"}, {"name": "homopropargylic/homoallylic alcohol product (F)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the arylalkene (Ep/2 = 1.57 V vs SCE) to a radical cation, which is intercepted by the organotrifluoroborate through a concerted C-C bond formation/BF3 release, yielding a benzylic radical; this radical is further oxidized at the anode to a carbocation that is trapped by H2O, while at the cathode H2O is reduced to H2 + HO-.", "rate_determining_step": null, "probe_reagents": [{"name": "photoredox control (Acr+-Mes ClO4- / [Co] cat., blue LED)", "smiles": null, "purpose": "other", "observation": "0% of carbohydroxylation product 3; instead 58% aldehyde 77 formed, showing distinct selectivity vs electrochemistry"}, {"name": "CAN (cerium ammonium nitrate, chemical oxidant)", "smiles": null, "purpose": "other", "observation": "0% of 3; benzophenone formed (25%) at 42% conversion, indicating alkene preferentially reacts with H2O under homogeneous SET oxidation"}, {"name": "1,1-diphenylpropene (trisubstituted alkene)", "smiles": null, "purpose": "intermediate_trap", "observation": "Gave 27% hydroxy-alkynylation 32 plus 51% vicinal diol 33, 10% epoxide, and 9% benzophenone, consistent with a benzylic cation intermediate trapped competitively by H2O"}, {"name": "DFT calculation on radical cation + alkenyltrifluoroborate", "smiles": null, "purpose": "other", "observation": "Low activation barrier for a concerted C-C bond formation/C-B cleavage, supporting concerted (not stepwise) coupling that preserves alkene stereochemistry"}], "evidence_types_used": ["cyclic_voltammetry", "DFT", "intermediate_trap_other", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Alternative stepwise mechanism (C-C bond formation followed by SET oxidation and C-B cleavage, as proposed for enamine radical cations with alkenyltrifluoroborates, ref 9c) was considered but ruled out because alkenyltrifluoroborate stereochemistry is fully retained in product, favoring a concerted C-C/C-B step. Selectivity for H2O over a second equivalent of organotrifluoroborate at the cation E is rationalized by steric hindrance."}
